US05112988
(3aRS,7aRS)-2-{[2-(N-tert-Butoxycarbonyl-N-methylamino)phenyl]acetyl}-7,7-diphenylperhydro-4-isoindolone (2.8 g) is treated with a 5.7N solution (30 cc) of hydrochloric acid in dry dioxane at 20° C. for 4 hours. Isopropyl ether (100 cc) is added and the solid is drained, washed with isopropyl ether and dried. (3aRS,7aRS)-2-[(2-methylaminophenyl)acetyl]-7,7-diphenylperhydro-4-isoindolone hydrochloride (2.1 g) is obtained in the form of a white solid.

reactant | (3aRS,7aRS)-2-{[2-(N-tert-Butoxycarbonyl-N-methylamino)phenyl]acetyl}-7,7-diphenylperhydro-4-isoindolone | 2.8 g | C(C)(C)(C)OC(=O)N(C)C1=C(C=CC=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H38N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | Isopropyl ether | 100 cc | C(C)(C)OC(C)C | C6H14O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3aRS,7aRS)-2-[(2-methylaminophenyl)acetyl]-7,7-diphenylperhydro-4-isoindolone hydrochloride | 2.1 g | Cl.CNC1=C(C=CC=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H30N2O2.ClH/c1-30-26-15-9-8-10-21(26)18-28(33)31-19-24-25(20-31)29(17-16-27(24)32,22-11-4-2-5-12-22)23-13-6-3-7-14-23;/h2-15,24-25,30H,16-20H2,1H3;1H
